US07425560B2
b) 6-Amino-1-(2-methoxy-ethyl)-5-nitroso-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
6-Amino-1-(2-methoxy-ethyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (1.0 g, 5.0 mmol) was suspended in 10% acetic acid (20 mL). Sodium nitrite (0.38 g, 5.5 mmol) was added and the resulting mixture was heated at 75° C. for 1 h. The reaction mixture became first pink and then purple. Water (20 mL) was added and the reaction mixture was put in the fridge overnight. The purple solid was collected by filtration and washed with water to give the title compound (0.42 g, 37%). A second crop of product (0.22 g, 19%) was obtained by reducing the volume of the purple filtrate. The crude product was used in the following step without further purification.

reactant | 6-Amino-1-(2-methoxy-ethyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 5.0 mmol, 1.0 g | NC1=CC(NC(N1CCOC)=S)=O | C7H11N3O2S
reactant | Sodium nitrite | 5.5 mmol, 0.38 g | N(=O)[O-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 6-Amino-1-(2-methoxy-ethyl)-5-nitroso-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 0.42 g, 37% | NC1=C(C(NC(N1CCOC)=S)=O)N=O | C7H10N4O3S
